US05332752
To a stirred cold solution of DL-2-amino-1-hexanol (1.1 ml) in dry THF (10 ml) was added triethylamine (2.8 ml) followed by dropwise addition of thiophosgene (0.81 ml) in dry THF (9 ml). The mixture was then stirred for 18 h at 20° C., evaporated under reduced pressure and the residue partitioned between water and diethyl ether. The ether extract was dried with sodium sulphate filtered and evaporated. The residue was dissolved in the minimum of hot 1:1 dimethylether-hexane and crystallised on cooling to give 4-butyloxazolidine-2-thione, mp 71-2°.

reactant | DL-2-amino-1-hexanol | 1.1 ml | CCCCC(CO)N | C6H15NO
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.81 ml | C(=S)(Cl)Cl | CCl2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | 4-butyloxazolidine-2-thione | C(CCC)C1NC(OC1)=S | C7H13NOS
